US08791123B2
To a solution of (2S,5R)-ethyl 5-(5-fluoropyridin-3-yl)pyrrolidine-2-carboxylate (1.10 g, 4.62 mmol) in dry THF (20 mL) was added 2M LiAlH4 in THF (3.00 mL, 6.00 mmol). The reaction was stirred at ambient temperature for 30 minutes and Na2SO4 10H2O (3.00 g, 9.31 mmol) was added in small portions. The mixture was stirred for 3 hours at ambient temperature and was filtered. The collected solid was washed with EtOAc and the washes combined with the filtrate. The solution was concentrated to provide crude ((2S,5R)-5-(5-fluoropyridin-3-yl)pyrrolidin-2-yl)methanol (0.95 g, 105% yield) that was used directly in the next step. MS (apci) m/z=197.1 (M+H).

reactant | (2S,5R)-ethyl 5-(5-fluoropyridin-3-yl)pyrrolidine-2-carboxylate | 4.62 mmol, 1.10 g | FC=1C=C(C=NC1)[C@H]1CC[C@H](N1)C(=O)OCC | C12H15FN2O2
reactant | LiAlH4 | 2M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 6.00 mmol, 3.00 mL | C1CCOC1 | C4H8O
product | ((2S,5R)-5-(5-fluoropyridin-3-yl)pyrrolidin-2-yl)methanol | 0.95 g, 105% yield | FC=1C=C(C=NC1)[C@H]1CC[C@H](N1)CO | C10H13FN2O
